US05420132
7-HYDROXY-2-{4-[BIS(4-FLUOROPHENYL)METHYL]PIPERAZIN-1-YLCARBONYL}-1,4-BENZODIOXIN
That compound is obtained in a yield of 76% starting from 1-[bis(4-fluorophenyl)methyl]piperazine and 7-hydroxy-1,4-benzodioxin-2-carboxylic acid.

reactant | 1-[bis(4-fluorophenyl)methyl]piperazine | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | 7-hydroxy-1,4-benzodioxin-2-carboxylic acid | OC=1C=CC2=C(OC(=CO2)C(=O)O)C1 | C9H6O5
product | 7-HYDROXY-2-{4-[BIS(4-FLUOROPHENYL)METHYL]PIPERAZIN-1-YLCARBONYL}-1,4-BENZODIOXIN | yield of 76% | OC=1C=CC2=C(OC(=CO2)C(=O)N2CCN(CC2)C(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C1 | C26H22F2N2O4
